2109-02-26 05:31:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Admitted overnight. Had lowish pressures to SBPs in 80s. Started on
   Dopamine. Right IJ Line Placed. Received total of 3 u PRBCs.
   Allergies:
   Lisinopril
   Rash; Abdominal
   Kefzol (Intraven.) (Cefazolin Sodium)
   Hives;
   Sulfa (Sulfonamide Antibiotics)
   Hives; Nausea/V
   Shellfish Derived
   facial swelling
   Last dose of Antibiotics:
   Infusions:
   Dopamine - 5 mcg/Kg/min
   Other ICU medications:
   Morphine Sulfate - [**2109-2-26**] 12:52 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2109-2-26**] 05:28 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**10**] AM
   Tmax: 35.8
C (96.4
   Tcurrent: 35.4
C (95.8
   HR: 109 (65 - 109) bpm
   BP: 94/58(64) {64/31(40) - 105/62(66)} mmHg
   RR: 17 (6 - 23) insp/min
   SpO2: 94%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 55 Inch
           Total In:
                                                                    817 mL
                                                                    779 mL
   PO:
           TF:
   IVF:
                                                                     17 mL
                                                                    429 mL
   Blood products:
                                                                    750 mL
                                                                    350 mL
   Total out:
                                                                    470 mL
                                                                    215 mL
   Urine:
                                                                    450 mL
                                                                    215 mL
   NG:
                                                                     20 mL
   Stool:
   Drains:
   Balance:
                                                                    347 mL
                                                                    564 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: ///29/
   Physical Examination
   Recorded by [**Initials (NamePattern4) **] [**Last Name (NamePattern4) 765**]:
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, NG tube
   Lymphatic: Cervical WNL, Supraclavicular WNL, Cervical adenopathy
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic),
   elevated JVP
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Diminished), (Left DP pulse: Diminished),
   edema difficult to palpate pulse, but faintly present
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ),
   clear to auscultation bilaterally
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: 3+, Left lower extremity
   edema: 3+, L leg with swollen and warm knee, hematoma; secondary to
   trauma
   Musculoskeletal: Unable to stand
   Skin:  Cool
   Labs / Radiology
   190 K/uL
   6.9 g/dL
   101 mg/dL
   3.0 mg/dL
   29 mEq/L
   4.6 mEq/L
   115 mg/dL
   97 mEq/L
   138 mEq/L
   21.7 %
   5.8 K/uL
        [image002.jpg]
                             [**2109-2-25**]  11:16 PM
                             [**2109-2-26**]  03:44 AM
   WBC
   5.3
   5.8
   Hct
   19.3
   21.7
   Plt
   206
   190
   Cr
   3.0
   Glucose
   101
   Other labs: PT / PTT / INR:14.0/29.4/1.2, Lactic Acid:1.1 mmol/L,
   Ca++:9.1 mg/dL, Mg++:2.4 mg/dL, PO4:7.1 mg/dL
   Assessment and Plan
   63 y/o F with hx of severe diastolic CHF, pulm HTN, afib, ulcerative
   colitis, and recent lower GI bleed who presents today from outpatient
   appointment with ARF and hct of 17.5 likely due to lower GI bleed.  Is
   moderately hypotensive from baseline in 120s to 80s-100s systolic.
   Oxygenating well on room air.
   # Blood Loss/Anemia: Likely GI, also has large LLE hematoma.
   Hypotension likely from hypovolemia, although could be multifactorial
   with beta blockage in the setting of renal failure.  Has GI bleed with
   melena and hct of 17.5, although her baseline is around 22.  Also had a
   recent fall with bruising on her back/LLE and may have lost some blood
   into hematomas.  Has had nausea, vomiting and poor PO intake.  Grossly
   is extravascularly fluid overload with severe LE edema.  Difficult to
   fluid resucitate due to hx of heart failure.
   - transfuse 2 units PRBCs
   - hct q6hrs
   - goal Hct >23
   - hold BB and diuretics for now
   - consider diuresis to see if poor forward flow is the cause of her
   hypotension
   - f/u ECHO result
   - LLE plain films and consider CT of LLE (possibly BLE)
   - Social work c/s
   # Hypotension:  As above, may be multifactorial
 likely hypovolemic.
   Is now on pressors, receiving 3^rd unit of PRBCs
   - continue levophed drip as needed
   - Hct at noon
   - serial lactates
   - check mixed venous saturation
   - place A Line
   - consider PA line to tamponade bleeding from CVL
   # GI bleed: likely due to known telangectasias seen on prior
   colonoscopy.  Had hemeoccult negative gastric lavage and negative upper
   endoscopy in [**Month (only) 1088**] so will not scope tonight.
   - continue to support Hct for >23
   - protonix 40 mg q12hrs
   - 3 PIVs
   - f/u GI recs
   - if briskly bleeding consider RBC scan and IR angiography
   - consider scope
   # Diastolic CHF: has severe diastolic CHF and history of needing
   midodrine and aggressive diuresis.  On exam and based on history seems
   to be more likely intravascularly depleted in the setting of total body
   overload.  Due to her hypotension are limited in our ability to
   diurese.
   - hold diuretics for now
   - monitor respiratory status
   - mostly right sided, so will follow LFTs
   - consider swan and a-line
   - f/u final echo read
   # ARF: acute on chronic renal failure, likely in the setting of
   worsening heart failure and poor forward flow.  Seen in outpatient
   renal [**2-25**], had renal US that was normal.  Electrolytes otherwise
   stable, no evidence of uremia on exam.
   - check urine lytes, osms, eos
   - follow urine output
   - trend creatinine
   # Ulcerative colitis: does not seem to be in a UC flare, no increase in
   diarrhea, no cramping abdominal pain.
   - hold mesalamine for now as is strickly NPO
   - f/u GI recs
   - no indication for steroids or immunesuppressants now
   # Afib: stable, slow ventricular response; not anticoagulated secondary
   to GI bleeding
   - hold BB in setting of hypotension
   # S/p Fall: mechanical, tripped on nightgown.  Has hematoma and warmth
   on L leg knee.  Doesn't appear infected, no white count, and per
   patient is decreasing in size.
   - continue to monitor
   - as above, check plain films and consider CT if concern for expanding
   hematoma
   # Edema: stable per patient but severe LE edema limiting walking.  Are
   holding diuresis as written above
   # Pain Control: on oxycodone and gabapentin at home, holding because
   she is NPO.
   - morphine IV PRN
   .
   # FEN: No IVF, replete electrolytes, NPO
   # Prophylaxis: no subcutaneous heparin in setting of bleed; pneumoboots
   if tolerated on legs
   # Access: peripherals, CVL in R IJ
   # Communication: Patient and son [**Name (NI) 149**] is HCP.
   # Code:  Full (discussed with patient)-consent signed
   # Disposition: ICU pending clinical improvement

2109-02-27 07:16:00 Physician Attending Progress Note
TITLE:
   Chief Complaint:
   HPI:
   24 Hour Events:
   - Hct last night at 21.4 --> transfused 1 unit but repeat Hct was 21.9.
   Getting transfused one more unit this AM. This is her 5th transfusion
   - Weaned off pressors last night but then given morphine for pain with
   drop in blood pressure. Restarted on pressors as a result and weaned
   off this AM.
   Allergies:
   Lisinopril
   Rash; Abdominal
   Kefzol (Intraven.) (Cefazolin Sodium)
   Hives;
   Sulfa (Sulfonamide Antibiotics)
   Hives; Nausea/V
   Shellfish Derived
   facial swelling
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2109-2-26**] 09:00 PM
   Morphine Sulfate - [**2109-2-27**] 12:01 AM
   Furosemide (Lasix) - [**2109-2-27**] 03:15 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2109-2-27**] 07:03 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**10**] AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.4
C (97.6
   HR: 86 (81 - 110) bpm
   BP: 111/51(65) {92/36(52) - 128/56(73)} mmHg
   RR: 12 (4 - 22) insp/min
   SpO2: 95%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 55 Inch
   CVP: 11 (11 - 29)mmHg
   Mixed Venous O2% Sat: 87 - 87
                                Total In:
                                                                  1,743 mL
                                                                    525 mL
   PO:
                                TF:
   IVF:
                                                                  1,043 mL
                                                                    175 mL
   Blood products:
                                                                    700 mL
                                                                    350 mL
   Total out:
                                                                  2,735 mL
                                                                    979 mL
   Urine:
                                                                  2,735 mL
                                                                    979 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -992 mL
                                                                   -454 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: 7.40/50/128/32/5
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   7.2 g/dL
   199 K/uL
   114 mg/dL
   2.8 mg/dL
   32 mEq/L
   3.2 mEq/L
   110 mg/dL
   96 mEq/L
   138 mEq/L
   21.9 %
   9.4 K/uL
        [image002.jpg] Ca 8.9 / Mg 2.2 / P 7.0
   Hct Trend: 21.7
 23.6
 21.4
  1unit
 21.9
   Urine eosinophils: +
   Lactates:
   [1][**2109-2-27**] 02:18AM
                                     0.7
   [2][**2109-2-26**] 04:16PM
                                     0.8
   [3][**2109-2-26**] 03:52AM
                                     1.1
                             [**2109-2-25**]  11:16 PM
                             [**2109-2-26**]  03:44 AM
                             [**2109-2-26**]  01:08 PM
                             [**2109-2-26**]  04:16 PM
                             [**2109-2-26**]  06:14 PM
                             [**2109-2-27**]  02:08 AM
   WBC
   5.3
   5.8
   9.6
   9.4
   Hct
   19.3
   21.7
   23.6
   21.4
   21.9
   Plt
   [**Telephone/Fax (3) 11821**]99
   Cr
   3.0
   2.8
   TCO2
   32
   Glucose
   101
   114
   Other labs: PT / PTT / INR:14.2/29.2/1.2, Lactic Acid:0.7 mmol/L,
   Ca++:8.9 mg/dL, Mg++:2.2 mg/dL, PO4:7.0 mg/dL
   Micro:
   Urine [**2-26**]: pending,
   Urine [**2-25**]: Pending
   Urine [**2-26**]: pending
   Studies:
   Left leg plain films: Soft tissue prominence but no fracture or
   dislocation
   TTE
   Markedly dilated right ventricular with mild global hypokinesis. Mildly
   depressed left ventricular function. Severe triscuspid regurgitation.
   At least mild pulmonary hypertension (likely UNDERestimated). Very
   small pericardial effusion around the atria.
   Compared with the prior study (images reviewed) of [**2108-12-6**], the
   heart rate is faster. The right venticle may be slightly more dilated,
   but was underestimated in size on prior study.
   Assessment and Plan
   63yF with hx of severe right-sided and diastolic CHF, pulmonary
   hypertension, afib, and ulcerative colitis with recent hospitalization
   for LGIB who presented here from an OP appointment with ARF and Hct of
   17.5 and melenotic, guiac positive stools.
   #) Anemia/Blood loss--two sources, lower GI (multiple bleeding
   angioectasias noted on previous colonoscopy [**2109-1-30**]) or hematoma from
   fall. Plain films show no evidence of fracture. Baseline Hct 22. Now
   off pressors
   - Continue transfusing for Hct goal >23
   - Giving lasix with transfusions given heart failure
   - F/u AM Hct (post-transfusion)
   - Hct q6h
   - Follow-up with GI/scope plans
   - If continues to re-bleed with hypotension, consider CT scan of legs
   (and possibly abdomen) to assess for hematoma and/or RBC scan and
   angiography
   - F/u social work consult
   - F/u serial lactates
   - Arterial line placed
   #) Diastolic, right-sided CHF with pulmonary hypertension. Echo report
   shows no major changes compared to prior studies. Elevated CVP likely
   owing to underlying severe right-heart failure.
   - Continue to monitor respiratory status
   - Consideration of diuretics during transfusion based on CVP readings.
   - [**Month (only) 60**] consider PA catheter
   #) Acute renal failure
acute on chronic with Creatinine of 2.8 although
   baseline is 1.5-2.0. FeNA is 0.1. Likely pre-renal in the setting of GI
   bleed, but urine was positive for eosinophils.
   - Continue blood resuscitation as above
   - Medication review to determine any offender
   - Follow urine output carefully
   #) Ulcerative colitis
stable; no diarrhea or abdominal pain
   - Holding mesalamine while patient is NPO
   - F/u with GI
   #) Atrial fibrillation: slow, ventricular response
   - Holding beta-blockers in setting of hypotension. Will monitor BP and
   resume beta-blockers if patient
s pressure can tolerate and no clinical
   evidence of ongoing blood loss.
   #) S/p Fall with R knee hematoma. Plain films without fracture
   - Continue to monitor right knee and if ongoing signs of blood loss
   will consider CT of legs
   - Social Work consult
   - Pain control: tylenol for now; avoid morphine when BP is tenuous.
   #) FEN: NPO, no IVF, replete electrolytes
   #) Ppx
pneumoboots. Holding heparin due to bleed
   #) Access: CVL in R IJ, Arterial Line
   #) Communication: Patient and son [**Name (NI) 789**]
   #) Code: Full
   #) Disposition: ICU pending clinical improvement.
References
   1. JavaScript:parent.POPUP(self,%22_WEBTAG=_2%22);
   2. JavaScript:parent.POPUP(self,%22_WEBTAG=_3%22);
   3. JavaScript:parent.POPUP(self,%22_WEBTAG=_4%22);

2109-02-28 06:43:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - Pressors were weaned off yesterday. MAPs in mid-high 50s overnight
   while sleeping, did not put back on pressors.
   Allergies:
   Lisinopril
   Rash; Abdominal
   Kefzol (Intraven.) (Cefazolin Sodium)
   Hives;
   Sulfa (Sulfonamide Antibiotics)
   Hives; Nausea/V
   Shellfish Derived
   facial swelling
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2109-2-27**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2109-2-28**] 06:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**10**] AM
   Tmax: 36.4
C (97.6
   Tcurrent: 36.1
C (96.9
   HR: 94 (72 - 104) bpm
   BP: 133/60(80) {111/43(59) - 133/62(80)} mmHg
   RR: 13 (7 - 15) insp/min
   SpO2: 92%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 55 Inch
    CVP: 23 (14 - 27)mmHg
   Total In:
                                                                  1,456 mL
                                                                    118 mL
   PO:
                                                                    650 mL
   TF:
   IVF:
                                                                    456 mL
                                                                    118 mL
   Blood products:
                                                                    350 mL
   Total out:
                                                                  2,524 mL
                                                                    600 mL
   Urine:
                                                                  2,524 mL
                                                                    600 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,068 mL
                                                                   -482 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 92%
   ABG: ///32/
   Physical Examination
   Mental Status: Alert, oriented
   CV: irregular rhythm, III/VI systolic murmur at RLSB.
   Lungs: CTAB
   Abdomen: Soft, nontender, nodnistended, bowel sounds
   Extremities: Unchanged edema, L> R with tender hematoma on L.
   Labs / Radiology
   161 K/uL
   7.7 g/dL
   106 mg/dL
   2.4 mg/dL
   32 mEq/L
   3.4 mEq/L
   105 mg/dL
   98 mEq/L
   140 mEq/L
   23.1 %
   5.9 K/uL
        [image002.jpg] Ca 8.9 / Mg 2.0 / Phos 5.8
   Hct Trend: 24.7
 24.1
 23.1
                             [**2109-2-25**]  11:16 PM
                             [**2109-2-26**]  03:44 AM
                             [**2109-2-26**]  01:08 PM
                             [**2109-2-26**]  04:16 PM
                             [**2109-2-26**]  06:14 PM
                             [**2109-2-27**]  02:08 AM
                             [**2109-2-27**]  08:19 AM
                             [**2109-2-27**]  11:20 AM
                             [**2109-2-27**]  06:15 PM
                             [**2109-2-28**]  02:30 AM
   WBC
   5.3
   5.8
   9.6
   9.4
   5.9
   Hct
   19.3
   21.7
   23.6
   21.4
   21.9
   23.7
   24.7
   24.1
   23.1
   Plt
   [**Telephone/Fax (3) 11821**]99
   161
   Cr
   3.0
   2.8
   2.5
   2.4
   TCO2
   32
   Glucose
   101
   114
   140
   106
   Other labs: PT / PTT / INR:14.1/28.0/1.2, ALT / AST:[**5-17**], Alk Phos / T
   Bili:102/1.4, Lactic Acid:0.7 mmol/L, Albumin:3.1 g/dL, LDH:151 IU/L,
   Ca++:8.9 mg/dL, Mg++:2.0 mg/dL, PO4:5.8 mg/dL
   Imaging:
   Abd/Chest/Pelvis: no retroperitoneal hematoma, extensive subQ edema and
   bilateral pleural effusions, trace ascites, biliary sludge
   Lower extremity (prelim): L hematoma
   Assessment and Plan
   63yF with hx of severe right-sided and diastolic CHF, pulmonary
   hypertension, afib, and ulcerative colitis with recent hospitalization
   for LGIB who presented here from an OP appointment with ARF and Hct of
   17.5 and melenotic, guiac positive stools.
   #) Anemia/Blood loss--two sources, lower GI (multiple bleeding
   angioectasias noted on previous colonoscopy [**2109-1-30**]) or hematoma from
   fall. Plain films show no evidence of fracture and Chest/Abdomen/Pelvis
   CT shows no evidence of retroperitoneal hematoma or other bleed.
   Baseline Hct 22. Hct stable at 23.1
   - Continue Q8h hematocrit checks. Goal transfusion above 23
   - Follow-up with GI/scope plans--plan to scope when patient is stable
   - F/u serial lactates
   - Weaned off pressors now
   - Continue MAP >60 goal
   - Can d/c a-line, d/c central line
   .
   #) Diastolic, right-sided CHF with pulmonary hypertension. Echo report
   shows no major changes compared to prior studies. Elevated CVP likely
   owing to underlying severe right-heart failure. Patient is total body
   volume overloaded but likely intravascularly dry.
   - Continue to monitor respiratory status
   - Will start spironolactone 25 qD today
   - Consideration of diuretics during transfusion based on CVP readings
   and respiratory status.
   .
   #) Acute renal failure
acute on chronic with Creatinine of 2.4 although
   baseline is 1.5-2.0. FeNA is 0.1. Likely pre-renal in the setting of GI
   bleed, but urine was positive for eosinophils. Mesalamine known to
   cause long-term or acute on chronic interstitial nephritis is 1% of
   cases; if this is relevant to her, then the improvement in her renal
   function may also be due to withholding the drug in the setting of
   being NPO.
   - Continue to support volume status as above
   - Will touch base with renal and GI re: mesalamine
   - Will hold Asacol for now
   - Goal urine output: 40cc's hour
   .
   #) S/p Fall with R knee hematoma. Plain films without fracture. CT
   prelim read shows large hematoma.
   - Continue to monitor left knee
   - F/u final CT read
   - Social Work consulted; patient feels safe at home and reportedly
   husband has moved out.
   - Pain control: tylenol and lidocaine patch for now; avoid morphine
   when BP is tenuous.
   #) Ulcerative colitis
stable; no diarrhea or abdominal pain
   - Holding mesalamine for now, will check with GI and renal if okay to
   continue (?possible cause of AIN)
   - Per GI, while patient is not having bowel movements conduct serial
   abdominal exams and in indicated serial KUBs
   #) Atrial fibrillation: slow, ventricular response
   - Holding beta-blockers in setting of hypotension. Will monitor BP and
   resume beta-blockers if patient
s pressure can tolerate and no clinical
   evidence of ongoing blood loss.
   #) Pain control
   - Will give lidoderm patch for now
   - Will hold opiates, but can consider if BP tolerates
   - Will restart Gabapentin today
   #) FEN:  no IVF, replete electrolytes, can advance diet today.
   #) Ppx
pneumoboots. Holding heparin due to bleed
   #) Access: CVL in R IJ, Arterial Line
   #) Communication: Patient and son [**Name (NI) 789**]
   #) Code: Full
   #) Disposition: ICU pending clinical improvement.